US07323431B2
2,2-Dibenzyl-3-methoxypropanol was prepared from 2,2-dibenzyl-1,3-propandiol and methyl iodide through the same procedure as described above.

reactant | 2,2-dibenzyl-1,3-propandiol | C(C1=CC=CC=C1)C(CO)(CO)CC1=CC=CC=C1 | C17H20O2
reactant | methyl iodide | CI | CH3I
product | 2,2-Dibenzyl-3-methoxypropanol | C(C1=CC=CC=C1)C(CO)(COC)CC1=CC=CC=C1 | C18H22O2
